US05415668
Preparation of diperoxy terephtalic acid:
10 g (51.5 m mols) terephtalic acid dimethylester was dissolved in 100 g methane-sulfonic acid under agitation at room temperature. The solution was cooled to 15° C., whereupon 15 g (0.309 mol) 70% hydrogen peroxide was added by drops under agitation. The temperature was increased and kept at 50° C. for 2 hours. The product was cooled to 0°-10° C., whereupon the solid particles were filtered off, washed with 4×30 ml ice-water and dried in a desiccator until constant weight.

reactant | terephtalic acid dimethylester | 10 g | COC(C1=CC=C(C(=O)OC)C=C1)=O | C10H10O4
reactant | hydrogen peroxide | 0.309 mol, 15 g | OO | H2O2
reactant | methane-sulfonic acid | 100 g | CS(=O)(=O)O | CH4O3S
product | diperoxy terephtalic acid | C(C1=CC=C(C(=O)OO)C=C1)(=O)OO | C8H6O6
